US05468888
12.3 g of methyl 11-bromo-2,2-dimethylundecanoate in solution in 70 cm3 of N,N-dimethylformamide are added to 8.2 g of potassium phthalimide in 70 cm3 of N,N-dimethylformamide and the mixture is heated for 3 hours at a temperature in the region of 80° C. The solution is cooled to a temperature in the region of 20° C. and then poured into 1400 cm3 of distilled water. Acidification is carried out to a pH in the region of 2 using 4N hydrochloric acid and extraction is then carried out with a total of 1000 cm3 of ethyl acetate. The organic phase is washed with a total of 450 cm3 of distilled water, dried over magnesium sulphate, and then concentrated under reduced pressure (13.5 Pa) at a temperature in the region of 60° C. 15.4 g of methyl 11-phthalimido-2,2-dimethylundecanoate are thus obtained in the form of a pale yellow viscous oil [Rf =0.38; silica thin layer chromatography; eluent: cyclohexane/ethyl acetate 8/2 (by volume)].

reactant | methyl 11-bromo-2,2-dimethylundecanoate | 12.3 g | BrCCCCCCCCCC(C(=O)OC)(C)C | C14H27BrO2
reactant | potassium phthalimide | 8.2 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | 1400 cm3 | O | H2O
solvent | N,N-dimethylformamide | 70 cm3 | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 70 cm3 | CN(C=O)C | C3H7NO
product | methyl 11-phthalimido-2,2-dimethylundecanoate | 15.4 g | C1(C=2C(C(N1CCCCCCCCCC(C(=O)OC)(C)C)=O)=CC=CC2)=O | C22H31NO4
